US07834051B2
2-chloro-4-[(2S,3R)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile
To a solution of 4-[(2S,3R)-3-(tert-butyldimethylsilyloxy)-2-ethyl-5-oxopyrrolidin-1-yl]-2-chlorobenzonitrile (366 mg) in tetrahydrofuran (5 mL)-methanol (5 mL) was added 6 mol/L hydrochloric acid (5 mL), and the mixture was stirred at room temperature for 18 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane/ethyl acetate=10/1→1/3) to give the title compound as a colorless solid (yield: 221.2 mg, 87%).

reactant | 4-[(2S,3R)-3-(tert-butyldimethylsilyloxy)-2-ethyl-5-oxopyrrolidin-1-yl]-2-chlorobenzonitrile | 366 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](N(C(C1)=O)C1=CC(=C(C#N)C=C1)Cl)CC | C19H27ClN2O2Si
reactant | methanol | 5 mL | CO | CH4O
reactant | hydrochloric acid | 6 mol/L, 5 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-[(2S,3R)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile | yield: 221.2 mg, 87% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@@H](CC1=O)O)CC | C13H13ClN2O2
